US05936088
(Z)-3-Acetylmethylene-1-azabicyclo[2.2.2]octane oxalate
To a solution of 3-quinuclidinone (2.0 g, 16 mmol) and potassiumhydroxide (1.93 g, 30 mmol) in water cooled to -5° C. (7.7 ml), dimethyl 2-oxopropylphosphonate (4.9 g, 30 mmol) was added dropwise. The reaction mixture was stirred at a temperature between 0° C. to -5° C. for 90 hours. The reaction mixture was quenched with 1 M hydrochloric acid solution (50 ml), rinsed three times with ether, made basic with solid potassiumcarbonate and extracted with methylenchloride (5×50 ml). The solvent was removed after drying over magnesiumsulfate. The crude compound was crystallised as the oxalate salt from ethanol (100 ml) and then recrystallised from ethanol (50 ml) to give the title compound in 21% yield. M.p. 189-190° C. (Compound 1).

reactant | 3-quinuclidinone | 16 mmol, 2.0 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | potassiumhydroxide | 30 mmol, 1.93 g | [OH-].[K+]
reactant | dimethyl 2-oxopropylphosphonate | 30 mmol, 4.9 g | O=C(CP(OC)(OC)=O)C | C5H11O4P
reactant | water | O | H2O
product | (Z)-3-Acetylmethylene-1-azabicyclo[2.2.2]octane oxalate | 21% yield | C(C(=O)O)(=O)O.C(C)(=O)\C=C\1/CN2CCC1CC2 | InChI=1S/C10H15NO.C2H2O4/c1-8(12)6-10-7-11-4-2-9(10)3-5-11;3-1(4)2(5)6/h6,9H,2-5,7H2,1H3;(H,3,4)(H,5,6)/b10-6+;
